US08242134B2
9a 8-Fluoro-3-fluoromethyl-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
3-Bromomethyl-8-fluoro-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide (27 mg, 0.052 mmol) N,N-Dimethylformamide (2 mL) and potassium fluoride (0.015 g, 0.26) were stirred at room temperature overnight. The reaction mixture was poured into water. The mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and concentrated in vacuo. The crude was purified by preparative HPLC to give the title compound.

reactant | 3-Bromomethyl-8-fluoro-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 0.052 mmol, 2 mL, 27 mg | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C2=C(C=CC=C12)F)=O)NCCC)CBr | C25H26BrF2N3O2
reactant | potassium fluoride | 0.015 g | [F-].[K+]
solvent | water | O | H2O
product | 8-Fluoro-3-fluoromethyl-1-oxo-2-propylamino-1,2-dihydro-isoquinoline-4-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C2=C(C=CC=C12)F)=O)NCCC)CF | C25H26F3N3O2
